US07517889B2
To a solution of 2-methoxy-acetamidine hydrochloride (20.18 g, 0.16 mol) and diethylmalonate (24.6 mL, 0.16 mol) in EtOH (150 mL) is added 60% dispersion of sodium hydride in oil (14.3 g, 0.36 mol). The mixture is heated to reflux and stirred for 16 hours. The mixture is concentrated in vacuo and the residue is diluted with water (100 mL) and extracted with EtOAc (75 mL). The aqueous layer is acidified to pH 3 with HCl and extracted thrice with EtOAc (75 mL). The organic extracts from acidic solution are combined and dried over magnesium sulfate, filtered and concentrated to afford 2-methoxymethyl-pyrimidine-4,6-diol (20 g, 80%) as an oil.

reactant | 2-methoxy-acetamidine hydrochloride | 0.16 mol, 20.18 g | Cl.COCC(=N)N
reactant | diethylmalonate | 0.16 mol, 24.6 mL | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | sodium hydride | [H-].[Na+]
solvent | EtOH | 150 mL | CCO | C2H6O
product | 2-methoxymethyl-pyrimidine-4,6-diol | 20 g, 80% | COCC1=NC(=CC(=N1)O)O | C6H8N2O3
